US04024143
5-fluoro-6-hydroxy-5,6-dihydrouracil monohydrate, 4.15 g, was boiled under reflux with chlorotriethylsilane, 50 ml. Distillation of the resulting product gave a quantitative recovery of bis-triethylsilyl-5-fluorouracil.

reactant | 5-fluoro-6-hydroxy-5,6-dihydrouracil monohydrate | O.FC1C(NC(NC1O)=O)=O
reactant | chlorotriethylsilane | Cl[Si](CC)(CC)CC | C6H15ClSi
product | bis-triethylsilyl-5-fluorouracil | C(C)[Si](CC)(CC)C1=C(C(N(C(N1)=O)[Si](CC)(CC)CC)=O)F | C16H31FN2O2Si2
